US05679689
217 mg (0.5 mmol) of 7-[(3aS,7aR)3a-amino-1,2,3,7a-tetrahydro-isoindol-2-yl]-8-chloro-1-[(1R,2S)-2-fluorocyclopropyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid are dissolved in a mixture of 5 ml of water and 0.5 ml of 1n hydrochloric acid. The solution is lyophilised. 7-[(3aS,7aR)3a-amino-1,2,3,7a-tetrahydro-isoindol-2-yl]-8-chloro-1-[(1R,2S)-2-fluorocyclopropyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride is isolated in quantitative yield.

reactant | 7-[(3aS,7aR)3a-amino-1,2,3,7a-tetrahydro-isoindol-2-yl]-8-chloro-1-[(1R,2S)-2-fluorocyclopropyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid | 0.5 mmol, 217 mg | N[C@@]12CN(C[C@H]2C=CC=C1)C1=C(C=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C21H18ClF2N3O3
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | 7-[(3aS,7aR)3a-amino-1,2,3,7a-tetrahydro-isoindol-2-yl]-8-chloro-1-[(1R,2S)-2-fluorocyclopropyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | quantitative yield | Cl.N[C@@]12CN(C[C@H]2C=CC=C1)C1=C(C=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)O)=O)F | InChI=1S/C21H18ClF2N3O3.ClH/c22-16-17-11(19(28)12(20(29)30)8-27(17)15-6-13(15)23)5-14(24)18(16)26-7-10-3-1-2-4-21(10,25)9-26;/h1-5,8,10,13,15H,6-7,9,25H2,(H,29,30);1H/t10-,13+,15-,21-;/m1./s1
